US06350761B1
To a solution of 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-hydroxy-3-amidinophenyl)prop-2-en-1-yl)benzenamine (400 mg) in 100 mL CH3CN was added acetyl chloride (500 mg) and Et3N (1.28 g) at ambient temperature. The resulting solution was stirred at ambient temperature for 2 hours. LiOH (500 mg) in water (1.0 mL) was then added to the reaction mixture and the resulting reaction mixture was stirred at ambient temperature for 2 hours. Acidification with trifluoroacetic acid, concentration, purification on HPLC (H2O/CH3CN, gradient) and freeze-drying afforded 4-(N′-(acetyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-hydroxy-3- amidinophenyl)prop-2-en-1-yl)benzenamine.

reactant | 4-(piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-hydroxy-3-amidinophenyl)prop-2-en-1-yl)benzenamine | 400 mg | N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1O)C(N)=N)C(=O)CCC(=O)O)C(F)(F)F | C26H29F3N4O5
reactant | acetyl chloride | 500 mg | C(C)(=O)Cl | C2H3ClO
reactant | Et3N | 1.28 g | CCN(CC)CC | C6H15N
reactant | LiOH | 500 mg | [Li+].[OH-]
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | water | 1.0 mL | O | H2O
product | 4-(N′-(acetyl)piperidin-4-yl)oxy-3-trifluoromethyl-N-(2-(carboxy)ethylcarbonyl)-N-(3-(6-hydroxy-3- amidinophenyl)prop-2-en-1-yl)benzenamine | C(C)(=O)N1CCC(CC1)OC1=C(C=C(C=C1)N(CC=CC1=CC(=CC=C1O)C(N)=N)C(=O)CCC(=O)O)C(F)(F)F | C28H31F3N4O6
